US07504513B2
In a similar manner as described for Example 53, 4-(3-Chloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid (41 mg, 0.1 mmol) and 3-anisidine (12.3 mg, 0.1 mmol, Aldrich) gave 4-(3-Chloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid (3-methoxy-phenyl)-amide (45.1 mg, 86.6%) as a white solid. MS m/z 521 (M+1).

reactant | 4-(3-Chloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid | 0.1 mmol, 41 mg | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)O)N1C=NC2=C1C=C(C(=C2)OC)OC | C19H14ClN3O4S
reactant | 3-anisidine | 0.1 mmol, 12.3 mg | COC1=CC(=CC=C1)N | C7H9NO
product | 4-(3-Chloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid (3-methoxy-phenyl)-amide | 45.1 mg, 86.6% | COC=1C=C(C=CC1)NC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)C2=CC(=CC=C2)Cl | C26H21ClN4O4S
